US06818641B2
Step A: Preparation of 1-(4-Trifluoromethyl-phenyl)-pentan-1-one
To a suspension of copper bromide-dimethylsulfide complex (11.0 g, 53.5 mmol) in 200 mL ether at −78° C. was added 65 mL of n-BuLi (1.6M, 104.0 mmol) dropwise. The mixture was stirred at −78° C. for 45 min, warmed to −40° C. for 10 min and then re-cooled to −78° C. A solution of 4-trifluoromethylbenzoyl chloride (10.0 g, 48.0 mmol) in 50 mL ether was added dropwise at −78° C. After addition was complete, the reaction was stirred at −78° C. for 30 min, quenched with saturated (sat.) ammonium chloride and allowed to warm to room temperature (RT). The mixture was poured into ether containing ca 10 mL methanol and was washed with a mixture of ammonium chloride/ammonium hydroxide. The combined aqueous layers were extracted with ether. The combined ether layers were dried (MgSO4), filtered and concentrated to give 11.0 g of a solid. 1H NMR (CDCl3) δ 8.05 (d,2H), 7.72 (d,2H), 2.99 (t,2H), 1.80-1.67 (m,2H), 1.50-1.35 (m,2H), 0.96 (t,3H). 19F NMR (CDCl3) δ −63.13.

reactant | n-BuLi | 104.0 mmol, 1.6M, 65 mL | [Li]CCCC
reactant | 4-trifluoromethylbenzoyl chloride | 48.0 mmol, 10.0 g | FC(C1=CC=C(C(=O)Cl)C=C1)(F)F | C8H4ClF3O
solvent | ether | 200 mL | CCOCC | C4H10O
solvent | ether | 50 mL | CCOCC | C4H10O
product | 1-(4-Trifluoromethyl-phenyl)-pentan-1-one | 11.0 g | FC(C1=CC=C(C=C1)C(CCCC)=O)(F)F | C12H13F3O
